US09376454B2
Step 2. Synthesis of 2-Hydroxy-3-(4-pyridin-4-yl-benzoylamino)-3,4-dihydro-2H-1-oxa-2-bora-naphthalene-8-carboxylic acid
Prepared from 2-Methoxy-3-[2-(4-pyridin-4-yl-benzoylamino)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-benzoic acid tert-butyl ester and BCl3 following the procedure described in Step 2 of Example 3. The crude product was purified by reverse phase preparative HPLC and dried using lyophilization. ESI-MS m/z 389.0 (MH)+.

reactant | 2-Methoxy-3-[2-(4-pyridin-4-yl-benzoylamino)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=C(C(=CC=C1)CC(B1OC2(C3C(C(CC2O1)C3)(C)C)C)NC(C3=CC=C(C=C3)C3=CC=NC=C3)=O)OC)=O | C36H43BN2O6
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
product | 2-Hydroxy-3-(4-pyridin-4-yl-benzoylamino)-3,4-dihydro-2H-1-oxa-2-bora-naphthalene-8-carboxylic acid | OB1OC2=C(C=CC=C2CC1NC(C1=CC=C(C=C1)C1=CC=NC=C1)=O)C(=O)O | C21H17BN2O5
